US09062070B2
Step C: tert-butyl (3S)-3-(hydroxymethyl)-4-{2-hydroxy-2-[(3R)-3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl]ethyl}piperazine-1-carboxylate
A solution of (3R)-3-methyl-6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one (325 mg, 1.59 mmol) and tert-butyl (3S)-3-(hydroxymethyl)piperazine-1-carboxylate (345 mg, 1.59 mmol dissolved in EtOH (7 mL) was heated in a sealed tube to 155° C. for 3 hours in the microwave. The reaction was cooled and concentrated to give crude product which was purified via MPLC (40-100% EtOAc/Hexane) to give the title compound as a mixture of diastereomers.

reactant | (3R)-3-methyl-6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one | 1.59 mmol, 325 mg | C[C@H]1OC(C2=CC=C(C=C2C1)C1OC1)=O | C12H12O3
reactant | tert-butyl (3S)-3-(hydroxymethyl)piperazine-1-carboxylate | OC[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
solvent | EtOH | 7 mL | CCO | C2H6O
product | tert-butyl (3S)-3-(hydroxymethyl)-4-{2-hydroxy-2-[(3R)-3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl]ethyl}piperazine-1-carboxylate | OC[C@@H]1CN(CCN1CC(C=1C=C2C[C@H](OC(C2=CC1)=O)C)O)C(=O)OC(C)(C)C | C22H32N2O6
